US04361579
To a suspension of 20 g of p-(methylamino)phenylgermanoic anhydride in 170 ml of chloroform is added dropwise 18 g of 2-ethoxycarbonylacetyl chloride at 0°-15° C. over a 30-minute period. After stirring at room temperature for 2 hours, 130 ml of 2.5% hydrochloric acid is added and stirred vigorously at 5°-15° C. for 30 minutes. The mixture is washed successively with 130 ml of cold water for 10 minutes, 130 ml of 5% aqueous sodium carbonate solution below 15° C. for 30 minutes, and 50 ml of cold water, dried over anhydrous magnesium sulfate, and filtered with activated charcoal. The filtrate is concentrated to about 50 ml on a water bath at 40°-45° C. under reduced pressure. The chloroform solution thus obtained is added dropwise to 500 ml of isopropyl ether over a 30-minute period, and stirred for an additional 30 minutes. The precipitated solid is collected by filtration and dried below 60° C. under reduced pressure to give quantitatively a polycondensation product or p-(N-methyl-2-ethoxycarbonylacetylamino)phenylgermanium trihydroxide.

reactant | p-(methylamino)phenylgermanoic anhydride | 20 g | CNC1=CC=C(C=C1)[Ge](=O)O[Ge](=O)C1=CC=C(C=C1)NC | C14H16Ge2N2O3
reactant | 2-ethoxycarbonylacetyl chloride | 18 g | C(C)OC(=O)CC(=O)Cl | C5H7ClO3
reactant | hydrochloric acid | 130 ml | Cl | ClH
reactant | isopropyl ether | 500 ml | C(C)(C)OC(C)C | C6H14O
solvent | chloroform | 170 ml | C(Cl)(Cl)Cl | CHCl3
product | p-(N-methyl-2-ethoxycarbonylacetylamino)phenylgermanium trihydroxide | [OH-].[OH-].[OH-].CN(C1=CC=C(C=C1)[Ge+3])C(CC(=O)OCC)=O | InChI=1S/C12H14GeNO3.3H2O/c1-3-17-12(16)8-11(15)14(2)10-6-4-9(13)5-7-10;;;/h4-7H,3,8H2,1-2H3;3*1H2/q+3;;;/p-3
